US07977351B2
3-(3H-Furo[3,4-c]pyridin-1-ylidene)-5-methyl-1,3-dihydro-indol-2-one
A solution of 3-(4-chloro-3H-furo[3,4-c]pyridin-1-ylidene)-5-fluoro-1,3-dihydro-indol-2-one (50 mg, 0.17 mmol) is dissolved in ethanol (10 mL) and treated with 5% Pd/C (50 mg), ammonium formate (500 mg, 7.93 mmol) The reaction mixture is stirred at room temperature for 24 h. The reaction mixture is evaporated and the residue is loaded onto silica gel and purified by chromatography (silica gel). The product containing fractions are concentrated to give the title compound as a yellow solid (20 mg, 45%).

reactant | 3-(4-chloro-3H-furo[3,4-c]pyridin-1-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 0.17 mmol, 50 mg | ClC1=NC=CC2=C1COC2=C2C(NC1=CC=C(C=C21)F)=O | C15H8ClFN2O2
reactant | ammonium formate | 7.93 mmol, 500 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-(3H-Furo[3,4-c]pyridin-1-ylidene)-5-methyl-1,3-dihydro-indol-2-one | 20 mg, 45% | C1(OCC=2C=NC=CC21)=C2C(NC1=CC=C(C=C21)C)=O | C16H12N2O2
